US05811439
The same procedures used in Example 1 were repeated except for using 2.88 g of bromoacetophenone and 2.00 g of indole-3-carbaldehyde as a starting material to give 2.06 g of 1-phenacylindole-3-carbaldehyde as pale yellow crystals. The yield thereof was found to be 57%.

reactant | bromoacetophenone | 2.88 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | indole-3-carbaldehyde | 2.00 g | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
product | 1-phenacylindole-3-carbaldehyde | 2.06 g | C(C(=O)C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C=O | C17H13NO2
